US06921767B2
Synthesis of 2-(1-Methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-6-yl)ethanol Step 1.
To a solution of tert-butyl 6-(2-ethoxy-2-oxoethyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate 1.05 g, 3.13 mmol)) in dry THF (15 mL) at room temperature was added a solution of LiBH4 (2.0 M in THF, 1.88 mL), and the resulting mixture was heated to reflux. After 16 hours the mixture was cooled to 0° C. and carefully quenched with water (20 mL). After 10 minutes, the mixture was extracted three times with ethyl acetate. The combined organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. This residue was dissolved in CH2Cl2 (3 mL), and to this solution was added 4 M HCl in dioxane (6 mL) all at once at room temp. After 4 hours, the mixture was concentrated under reduced pressure to get the crude product, which was chromatographed on silica gel (eluent: 98/2/0.5 dichloromethane/methanol/-ammonium hydroxide) to afford the desired product as a gray solid. (390 mg) H NMR (400 MHz, CDCl3) δ 2.73 (t, 2H), 2.72 (s, 3H), 3.20 (t, 2H), 3.58(m, 2H), 3.89 (t, 2H), 6.36 (d, 1H), 6.58(d, 2H).

reactant | tert-butyl 6-(2-ethoxy-2-oxoethyl)-1-methyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate | 3.13 mmol, 1.05 g | C(C)OC(CC=1C=CC2=C(N(CCN2C)C(=O)OC(C)(C)C)N1)=O | C17H25N3O4
reactant | LiBH4 | 2.0 M, 1.88 mL | [Li+].[BH4-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(1-Methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-6-yl)ethanol | CN1C2=C(NCC1)N=C(C=C2)CCO | C10H15N3O
